*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :1005M(0402)/B(-25to85[deg])/4.70e-01[uF]/6.3[V]
* Murata P/N :GRM155B30J474ME18
* Property : C = 4.70e-01[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[Hz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GRM155B30J474ME18 Port1 Port2
C01 Port1 N01 4.44e-07
R01 Port1 N01 1.06e+08
L02 N01 N02 2.01e-10
R03 N02 N03 1.12e-02
C04 N03 N04 3.70e-05
R04 N03 N04 1.08e+02
C05 N04 N05 6.07e-05
R05 N04 N05 1.03e+01
C06 N05 N06 5.63e-05
R06 N05 N06 1.87e+00
C07 N06 N07 7.20e-05
R07 N06 N07 2.46e-01
C08 N07 N08 6.94e-05
R08 N07 N08 4.64e-02
C09 N08 N09 3.68e-05
R09 N08 N09 1.21e-02
L10 N09 N10 1.41e-11
R10 N09 N10 2.13e-01
L11 N10 N11 2.75e-11
R11 N10 N11 9.99e-02
L12 N11 N12 1.27e-10
R12 N11 N12 4.20e-02
C13 N12 N13 2.84e-06
L13 N12 N13 1.50e-11
R13 N12 N13 3.68e-03
C14 N13 N14 1.02e-06
L14 N13 N14 2.60e-11
R14 N13 N14 7.05e-03
C15 N14 Port2 4.09e-11
L15 N14 Port2 8.26e-12
R15 N14 Port2 7.76e-01
.ENDS GRM155B30J474ME18
